US04695575
A mixture of 6.48 parts of [(2-bromoethyl)thio]benzene, 6.8 parts of 1-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-1H-benzimidazol-5-ol, 4.2 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred for 2 hours at reflux temperature using a water separator. After cooling to room temperature, the reaction mixture was poured into water. The layers were separated. The organic layer was washed with 500 parts of water, dried, filtered and evaporated. The residue was taken up in a mixture of trichloromethane and methanol (95:5 by volume) and 25 parts of silica gel. After stirring for 15 minutes, the whole was filtered, washed with the eluent and the filtrate was evaporated. The residue was boiled in 160 parts of 2-propanone. The mixture was stirred overnight at room temperature. The product was filtered off, washed with 2-propanone and crystallized from 280 parts of 2-propanone. The product was filtered off, washed with 2-propanone and dried in vacuo at 50° C., yielding 2.7 parts (27.8%) of 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(phenylthio)ethyl]-4-piperidinyl]methyl]-1H-benzimidazol-5-ol hemihydrate; mp. 193.8° C. (570).

reactant | [(2-bromoethyl)thio]benzene | BrCCSC1=CC=CC=C1 | C8H9BrS
reactant | 1-[(4-fluorophenyl)methyl]-2-(4-piperidinylmethyl)-1H-benzimidazol-5-ol | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC(=C2)O)CC2CCNCC2 | C20H22FN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(phenylthio)ethyl]-4-piperidinyl]methyl]-1H-benzimidazol-5-ol hemihydrate | 27.8% | O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC(=C2)O)CC2CCN(CC2)CCSC2=CC=CC=C2.FC2=CC=C(C=C2)CN2C(=NC1=C2C=CC(=C1)O)CC1CCN(CC1)CCSC1=CC=CC=C1 | InChI=1S/2C28H30FN3OS.H2O/c2*29-23-8-6-22(7-9-23)20-32-27-11-10-24(33)19-26(27)30-28(32)18-21-12-14-31(15-13-21)16-17-34-25-4-2-1-3-5-25;/h2*1-11,19,21,33H,12-18,20H2;1H2
